US06130235
Preparation of 4-(4-chlorobenzyl)-piperazinyl-1-(2-propyl)-indole-5-carboxamide
4-(4-Chlorobenzyl)piperazinyl-indole-5-carboxamide (420 mg, 1.32 mMol) was taken in acetone. Solid KOH (280 mg, 5 mMol) was added followed by the addition of 2-iodopropane (1 g, 6 mMol) and the mixture was refluxed with stirring for 20 h. Acetone was removed in vacuo and the residue was extracted from water using methylene chloride. The extract was dried and evaporated and the residue was chromatographed on a column of silica gel using ethylacetate-hexane (ethylacetate 0 to 25%, gradient) and recrystallized from ether-hexane to yield 300 mg of the product. 1HNMR (CDCl3): δ=7.6 (s, 1H); 7.3-7.1 (m, 6H); 6.5 (s, 1H); 4.65-4.55 (m, 1H); 3.8-3.5 (m, 4H); 3.4 (s, 2H); 2.4-2.5 (s, 4H); 1.5 (d, 6H). MS (ESI) m/e 395 (M+).

reactant | 4-(4-Chlorobenzyl)piperazinyl-indole-5-carboxamide | 1.32 mMol, 420 mg | ClC1=CC=C(CN2CCN(CC2)C=2NC3=CC=C(C=C3C2)C(=O)N)C=C1 | C20H21ClN4O
reactant | KOH | 5 mMol, 280 mg | [OH-].[K+]
reactant | 2-iodopropane | 6 mMol, 1 g | IC(C)C | C3H7I
solvent | acetone | CC(=O)C | C3H6O
product | 4-(4-chlorobenzyl)-piperazinyl-1-(2-propyl)-indole-5-carboxamide | 300 mg | ClC1=CC=C(CN2CCN(CC2)C=2N(C3=CC=C(C=C3C2)C(=O)N)C(C)C)C=C1 | C23H27ClN4O
